US04571423
Production of 2-benzoylaminopyrrolo(2,3-d)pyrimidin-4-one
Using 2-aminopyrrolo(2,3-d)pyrimidin-4-one and benzoyl chloride, the above-identified compound is produced by the same procedure as Reference Example 2.

reactant | 2-aminopyrrolo(2,3-d)pyrimidin-4-one | NC1=NC(C=2C(=N1)N=CC2)=O | C6H4N4O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-benzoylaminopyrrolo(2,3-d)pyrimidin-4-one | C(C1=CC=CC=C1)(=O)NC1=NC(C=2C(=N1)N=CC2)=O | C13H8N4O2
